US04771051
F. 3-(5-ethyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline
3-methyl-1,2,3,4-tetrahydro-2,4-dioxo-quinazoline (5 mmol) was dissolved in dry dimethyl formamide DMF (20 ml) and charged with sodium hydride (6 mmol). The resulting solution was cooled under N2 to -20° C., whereafter chlorodiethylphosphate (6 mmol) was added. The reaction mixture was kept under N2 with stirring and was allowed to reach room temperature and was then charged with a -30° C. cold solution of 5-ethyl-3-isocyanomethyl-1,2,4-oxadiazole (6 mmol) and K-t-butylate (6 mmol) in dry DMF (15 ml). The resulting mixture was stirred at room temperature for one hour whereafter the reaction mixture was evaporated in vacuo. The residue was partitioned between ethyl acetate and 4M sodium hydroxide. The organic phase was dried and evaporated. Yield 120 mg of title compound. M.p. 199.4°-202.2° C.

reactant | 3-methyl-1,2,3,4-tetrahydro-2,4-dioxo-quinazoline | 5 mmol | CN1C(NC2=CC=CC=C2C1=O)=O | C9H8N2O2
reactant | sodium hydride | 6 mmol | [H-].[Na+]
reactant | chlorodiethylphosphate | 6 mmol | CCOP(=O)(OCC)Cl | C4H10ClO3P
reactant | 5-ethyl-3-isocyanomethyl-1,2,4-oxadiazole | 6 mmol | C(C)C1=NC(=NO1)C[N+]#[C-] | C6H7N3O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-(5-ethyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline | C(C)C1=NC(=NO1)C=1N=CN2C1N(C(C1=CC=CC=C21)=O)C | C15H13N5O2
